US07294629B2
A solution (250 mL) of 2,5-dibromo-1-nitrobenzene (4.32 g, 15.4 mmol) in THF was cooled to −105° C. and 0.88 M phenyllithium/THF solution (19.8 mL, 17.4 mmol) was slowly added dropwise. After 30 min, DMF (5.4 mL, 69.6 mmol) was slowly added dropwise and the temperature was slowly raised to −20° C. Dilute aqueous sulfuric acid solution (100 mL) was added to the reaction mixture and the mixture was concentrated. The product was extracted with ethyl acetate (80 mL×2). The organic layer was dried, concentrated and the resulting brown solid (5.66 g) was dissolved in acetone (50 mL). Jone's reagent (20 mL) was slowly added to this solution under ice-cooling, and the temperature was slowly raised to room temperature. Isopropanol was added to the reaction mixture and the mixture was concentrated. 2 mol/L Aqueous sodium hydroxide solution (100 mL) was added and the mixture was filtered. Concentrated hydrochloric acid was added to acidify the filtrate. The precipitate was collected by filtration and the residue was washed with water and dried to give 4-bromo-2-nitrobenzoic acid (1.95 g, 52%).

reactant | 2,5-dibromo-1-nitrobenzene | 15.4 mmol, 250 mL, 4.32 g | BrC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
reactant | phenyllithium THF | 17.4 mmol, 0.88 M, 19.8 mL | C1(=CC=CC=C1)[Li].C1CCOC1
reactant | DMF | 69.6 mmol, 5.4 mL | CN(C)C=O | C3H7NO
reactant | sulfuric acid | 100 mL | S(O)(O)(=O)=O | H2O4S
solvent | THF | C1CCOC1 | C4H8O
product | 4-bromo-2-nitrobenzoic acid | 1.95 g, 52% | BrC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4BrNO4
